US06713474B2
Sodium hydride (120 mg of a 60% dispersion in mineral oil) was added to a solution of 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (906 mg) in dry dimethylformamide (30 ml) with stirring under nitrogen. The mixture was stirred for 30 minutes under nitrogen and then N-(8-bromooctyl)phthalimide (1.4 g) in dimethyl-formamide (5 ml) was added. The mixture was stirred at ambient temperature for 18 hours under nitrogen and then partitioned between water and ethyl acetate. The ethyl acetate layer was separated and purified by flash column chromatography using ethyl acetate as the mobile phase to give 5-(4-phenoxyphenyl)-7-(8-phthalimidooctyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 85-86° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 906 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | N-(8-bromooctyl)phthalimide | 1.4 g | BrCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H20BrNO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethyl-formamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(4-phenoxyphenyl)-7-(8-phthalimidooctyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)CCCCCCCCN2C(C=1C(C2=O)=CC=CC1)=O | C34H33N5O3
